US09376442B2
4-[2-(Cyclopropylmethoxy)-5-methylphenyl]-N-{trans-4-[(methoxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f29) and commercially available methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-methylphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C)OCC2CC2)C
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[2-(Cyclopropylmethoxy)-5-methylphenyl]-N-{trans-4-[(methoxyacetyl)amino]cyclohexyl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(COC)=O | C28H35N5O4
